Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
"My colleagues supervisors and friends think that I am off."

 
Major Surgical or Invasive Procedure:
none.

EEG completed, negative. 
 
History of Present Illness:
Mr. ___ is a ___ yo M who was brought to the ED by ___ police
after his employer at ___ concerned about odd behavior at
work, including talking to himself, unresponsive staring spells,
and labile affect. His understanding is that his coworkers feel
he is "off". He is not able to provide much information because
he has a rigid, slow interactive style, potentially due to
gaurding/paranoia/memory problems. During admission exam, 
patient
expresses frustration that he has been admitted. He says "I feel
ok, I know how I express myself. I can't control how others 
would
feel about that." When asked about past psychiatric history, he
will not give details, but explains that every time he was in a
psychiatric facility, it was after a stressful event in his 
life.
He reports being stressed right now by his kids. 

While patient was in the ED, his boss was contacted and reported
rigid, obsessional behavior, staring spells, emotional lability
(crying/yelling) and says that this behavior has happened ___
times over the past ___ years for a few days at a time. His wife
also endorses ___ periods of time when he has had this erratic
behavior for a few days, and that it is often accompanied by
paranoia. She also reports that he has not slept well for the
past 5 nights, and paces at night. She believes he is under
increased stress because their daughter totalled the car a few
weeks ago. 

On psych ROS, patient reports a "mellow" mood. He denies guilt,
change in interst, motivation, energy, appetite, or memory. He
does report decreased sleep. He also reports decreased
concentration, and believes this is due to "random, staggering
thoughts" that pop into his brain. He says he gets easily
distracted by thoughts and external stimuli, and can seem
impulsive when he pays attention to these stimuli when it is
innapropriate (gives the example of being in a conversation,
seeing a fly, and swatting it aggresively mid-sentence). He
denies grandiosity, racing thoughts, or increased goal directed
behavior. He denies SI/HI. HE deneis AH/VH. He denies symptoms 
of
anxiety at the moment, but feels that the hospital experience as
a whole makes him anxious. He denies symptoms of PTSD.

 
Past Medical History:
PAST PSYCH HISTORY:
Per patient's PCP ___ in ___, ___ his 
diagnosis is noted as Schizophrenia and Anxiety with
past episodes of Depression. 
- last psych hospitalization ___ at ___. 
Psychiatrist noted in ___ was Dr. ___ ___. States 
that he was noted to be prescribed Zyprexa in the past, but the 
last time the PCP office prescribed the Zyprexa was ___ 
with Ativan and Trazadone.
  -Past hospitalizations Landmark ___, Landmark ___ for 
hearing "bursting noises" in his soda, feeling in a "dimensional 
or dimensional space," paranoia. Before ___- 1 or 2 other 
hospitalizations including ___ when his mother died. 

PAST MEDICAL HISTORY:
Type 2 DM, controlled with metformin.

 
Social History:
___
Family History:
Family psychiatric history:
Brother with ?bipolar disorder

 
Physical Exam:
per Dr. ___ ___:

Physical Examination:
VS:  BP: 162/104 HR:75 temp:98.1 resp:16 O2 sat:98% height: 72" 
weight: 194 lbs
GENERAL:  Well-nourished, muscular ___ male in no
apparent distress, appears comfortable, seated in chair, alert
and oriented x3.  
HEENT:  Normocephalic, atraumatic.  Pupils equal, round and
reactive to light.  Oropharynx clear.
NECK:  Soft, supple, no lymphadenopathy.
CHEST:  Clear to auscultation bilaterally, no crackles, no
wheezing.
HEART:  Regular rate and rhythm, S1, S2 normal, no murmurs.
ABDOMEN:  Soft, nontender, nondistended, no rebound or guarding.
EXTREMITIES:  Full range of motion of bilateral upper
extremities, no pain on range of motion of extremities.  No 
lower
extremity edema.
NEUROLOGIC:  No focal deficits.  Ambulatory with normal gait. 
Cranial nerves II through XII intact, ___ strength intact and
equal on bilateral upper and lower extremities at all joints
grossly.
SKIN:  No skin changes, no bruising or rashes.

Neuropsychiatric Examination:
  *Appearance: ___ male who appears stated age,
seated comfortably, wearing ___. Muscular. Moderate hygiene.
  Behavior: Patient is pleasant but skeptical throughout
interview and questions the motives behind almost every question
asked. He uses his hands frequently to mime out his thought
process. At one point, he has a 15 second period of time where
his face has involuntary twitching movements and his eyes dart
around. When asked if he is ok after these movements cease, he
says "yea, i was just trying to think of the answer to your
questions."
  *Speech: rate is slow. Tone is monotonous. rhythm, volume are
normal. 
  *Mood and Affect: Mood is "mellow." Affect is slightly
dysthymic, bizzare, stable, restricted, congruent.
  *Thought process :rigid, tangential, illogical. Patient is 
very
vague with all responses.
  *Thought Content : patient denies SI/HI, AH/VH. He denies
paranoia or delusions. Several times he speaks about "the load 
he
is carrying," which he describes as all the stress and
expectations people have of him.
  *Judgment and Insight: insight is poor. Judgement is fair. 
  Cognition:
    *Attention- patient has some difficulty with attention, as 
he
asks for clarification of many questions and sometimes does not
respond at all. He is able to do MOYB. 
    *orientation- Patient is oriented x 3. 
    *Memory: Patient can register and recall 3 words at 5
minutes.
    Calculations: Patient calculated 7 quarters in $1.75
    Abstraction:"plane/bird"=have wings, "train/plane"=modes of
transportation. "the grass is always greener on the other side"=
From your standpoint, you are always looking at how they are
doing and it seems better.

 
Pertinent Results:
___ 08:35PM BLOOD WBC-4.2 RBC-5.16 Hgb-16.1 Hct-46.9 MCV-91 
MCH-31.1 MCHC-34.3 RDW-12.7 Plt ___
___ 05:00AM BLOOD WBC-4.5 RBC-4.99 Hgb-15.2 Hct-46.1 MCV-92 
MCH-30.4 MCHC-32.9 RDW-12.3 Plt ___
___ 08:35PM BLOOD Neuts-45.7* Lymphs-48.5* Monos-4.5 
Eos-0.7 Baso-0.7
___ 08:35PM BLOOD Plt ___
___ 08:35PM BLOOD ___ PTT-35.5 ___
___ 05:00AM BLOOD Plt ___
___ 08:35PM BLOOD Glucose-110* UreaN-18 Creat-1.3* Na-141 
K-3.9 Cl-104 HCO3-28 AnGap-13
___ 05:00AM BLOOD Glucose-104* UreaN-16 Creat-1.3* Na-141 
K-4.2 Cl-103 HCO3-31 AnGap-11
___ 05:00AM BLOOD ALT-33 AST-37 AlkPhos-56 TotBili-0.4
___ 05:00AM BLOOD Calcium-9.7 Phos-3.1 Mg-2.1
___ 08:35PM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD TSH-1.4
___ 08:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:46PM BLOOD Lactate-1.1

EEG - "normal" per EEG fellow.  official report pending.
 
Brief Hospital Course:
PSYCH:  
Mr. ___ presented with concerns for odd behavior (aggressive 
at times, w/ staring spells, rigid thoughts, not making sense).  
He was very disorganized, exhibited thought blocking and speech 
delay, and paranoia.  He was placed on risperidone, titrated up 
to 3mg BID.  Within a few days his symptoms improved with some 
residual disorganization.  He continued to deny SI and HI 
throughout his stay.  Mr. ___ was very active in therapy and 
OT groups on the unit.

MEDICAL:
An EEG was ordered for concerns of stereotypic movement (namely, 
15 second episode of involuntary facial muscle twitching, in 
addition to staring spells, witnessed in the emergency room.)  
The EEG was ordered to rule out interictal psychosis.  It was 
read as "normal."

SOCIAL MILIEU:
Mr. ___ acclimated well to the milieu and was an active 
participant in many groups.

LEGAL: ___
RISK ASSESSMENT:
While Mr. ___ was at risk of inability to take care of himself 
prior to admission, he will be discharged to a partial hospital 
program and will have established outpatient treaters which will 
significantly decrease his risk.  Additionally, his symptoms 
have improved with medication significantly.  Mr. ___ has told 
us he is willing to continue this medication which will decrease 
his risk of relapsing symptoms, combined with having outpatient 
treaters monitor his symptoms.  He at no time during admission 
expressed any suicidal or homicidal ideation.
 
Medications on Admission:
Metformin 1000 mg (500 mg BID)

 
Discharge Medications:
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Risperidone (Disintegrating Tablet) 3 mg PO BID 
RX *risperidone [Risperdal] 3 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
  I   Schizophrenia
  II  Defer
  III T2DM

 
Discharge Condition:
MENTAL STATUS EXAM:
Arousal: Awake and alert
Appearance: ___ man appearing stated age in blue 
polo and blue pants.
Behavior: cooperative, good eye contact.
Speech: normal rate, rhythm, tone, and prosody
Mood: 'good'
Affect: euthymic
Thought process: Linear, with some derailment
Thought content: denies AVH, SI, HI
Judgment and Insight: fair/fair

ambulatory status: patient is ambulatory

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___